US08669246B2
Subsequently, ethyl 5-{[(3-phenylpropyl)amino]methyl}-2-furoate (0.64 g) was prepared from ethyl 5-formyl-furan-2-carboxylate (500 mg) and 3-phenylpropylamine (0.85 mL) in the same manner as in Preparation Example 52.

reactant | ethyl 5-formyl-furan-2-carboxylate | 500 mg | C(=O)C1=CC=C(O1)C(=O)OCC | C8H8O4
reactant | 3-phenylpropylamine | 0.85 mL | C1(=CC=CC=C1)CCCN | C9H13N
product | ethyl 5-{[(3-phenylpropyl)amino]methyl}-2-furoate | 0.64 g | C1(=CC=CC=C1)CCCNCC1=CC=C(O1)C(=O)OCC | C17H21NO3
